US04880828
Preparation of O,O-Diethyl O-2-(Tetrahydro-2-Thienyl)Phenyl Phosphorothioate (Compound No. 1)
A mixture of 3 g. of 2-(tetrahydro-2-thienyl) phenol, 4 g. of diethylchlorothiophosphate, 50 ml. of methyl ethyl ketone and 10 g. of anhydrous potassium carbonate was refluxed for 5 hours. Thereafter, the solids were recovered by filtration and the solvent was removed. The residue was treated with ether and water resulting in the formation of a two-layer liquid. The water layer was removed and the ether layer was washed twice with water. The ether layer resulting therefrom was dried over magnesium sulfate and the solvent removed.

reactant | 2-(tetrahydro-2-thienyl) phenol | S1C(CCC1)C1=C(C=CC=C1)O | C10H12OS
reactant | diethylchlorothiophosphate | C(C)OP(=S)(OCC)Cl | C4H10ClO2PS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | O,O-Diethyl O-2-(Tetrahydro-2-Thienyl)Phenyl Phosphorothioate | P(OCC)(OCC)(OC1=C(C=CC=C1)C1SCCC1)=S | C14H21O3PS2
